US05994378
Trifluoromethanesulfonic anhydride (0.74 ml) was added dropwise to an ice-cooled mixture of 2-(5-hydroxy-benzofuran-2-yl)-4-tert-butylthiazole (1.0 g), N,N-dimethylaminopyridine (67 mg) and 2,6-lutidine (0.52 ml, 4.39 mmol) in dry dichloromethane (10 ml) below 10° C. After being stirred at room temperature for 2 hours, the reaction mixture was washed with diluted hydrochloric acid, then dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using n-hexane-ethyl acetate (4:1) as eluent to give 2-(4-tert-butylthiazol-2-yl)-benzofuran-5-yl trifluoromethanesulfonate as a colorless oil (1.39 g).

reactant | Trifluoromethanesulfonic anhydride | 0.74 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(5-hydroxy-benzofuran-2-yl)-4-tert-butylthiazole | 1.0 g | OC=1C=CC2=C(C=C(O2)C=2SC=C(N2)C(C)(C)C)C1 | C15H15NO2S
reactant | 2,6-lutidine | 4.39 mmol, 0.52 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(4-tert-butylthiazol-2-yl)-benzofuran-5-yl trifluoromethanesulfonate | 1.39 g | FC(S(=O)(=O)OC=1C=CC2=C(C=C(O2)C=2SC=C(N2)C(C)(C)C)C1)(F)F | C16H14F3NO4S2
